US09278915B2
Intermediate 162: Diethyl {(E)-2-[4-(benzyloxy)phenyl]ethenyl}phosphonate
To A 100 mL 2 necked RB flask charged with a suspension of NaH (0.14 g, 5.67 mmol) in THF (50 mL) under Nitrogen atmosphere was added tetraethyl methanediylbis(phosphonate) (1.63 g, 5.67 mmol) in THF drop wise at 0° C. This solution was stirred at the same temperature for 5 min followed by the addition of 4-(benzyloxy)benzaldehyde slowly. Reaction mixture was stirred at RT for 4 h. Excess NaH was quenched with ice and stirred for 5 min. Then the RM was diluted with ethyl acetate (50 mL) and the organic layer was washed with water (20 mL). The organic layer was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure. The product was obtained as oil (1.6 g, yield: 98%). 1H NMR (300 MHz, CDCl3): δ 7.28-7.45 (m, 8H), 6.89-7.23 (d, 2H), 5.96-6.08 (t, 1H), 5.03 (s, 2H), 4.0-4.1 (m, 3H), 1.26-1.30 (t, 3H)

reactant | NaH | 5.67 mmol, 0.14 g | [H-].[Na+]
reactant | tetraethyl methanediylbis(phosphonate) | 5.67 mmol, 1.63 g | C(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C9H22O6P2
reactant | 4-(benzyloxy)benzaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Diethyl {(E)-2-[4-(benzyloxy)phenyl]ethenyl}phosphonate | 1.6 g, yield: 98% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)/C=C/P(OCC)(OCC)=O | C19H23O4P
